US07056917B2
(A) N-((E)-3-{8-[2-(4-Isopropyl-1,3-thiazol-2-yl)ethyl]-2-morpholino-4-oxo-4H-pyrido-[1,2-a]pyrimidin-3-yl}-2-propenoyl)-3-(tert-butoxycarbonylamino)-1-propane-sulfonamide
(E)-3-{8-[2-(4-Isopropyl-1,3-thiazol-2-yl)ethyl]-2-morpholino-4-oxo-4H-pyrido -[1,2-a]pyrimidin-3-yl}-2-propenoic acid (53 mg) was dissolved in dimethylformamide (2 ml), added with 3-(N-tert-butoxycarbonylamino)propanesulfonamide (55 mg) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (67 mg), and the mixture was stirred at room temperature for 24 hours. The reaction solution was added with ethyl acetate and hexane, washed with 0.2 M hydrochloric acid, and dried over sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography to obtain the title compound (32 mg) as yellow powder.

reactant | (E)-3-{8-[2-(4-Isopropyl-1,3-thiazol-2-yl)ethyl]-2-morpholino-4-oxo-4H-pyrido -[1,2-a]pyrimidin-3-yl}-2-propenoic acid | 53 mg | C(C)(C)C=1N=C(SC1)CCC1=CC=2N(C(C(=C(N2)N2CCOCC2)/C=C/C(=O)O)=O)C=C1 | C23H26N4O4S
reactant | 3-(N-tert-butoxycarbonylamino)propanesulfonamide | 55 mg | C(C)(C)(C)OC(=O)NCCCS(=O)(=O)N | C8H18N2O4S
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 67 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | hexane | CCCCCC | C6H14
product | N-((E)-3-{8-[2-(4-Isopropyl-1,3-thiazol-2-yl)ethyl]-2-morpholino-4-oxo-4H-pyrido-[1,2-a]pyrimidin-3-yl}-2-propenoyl)-3-(tert-butoxycarbonylamino)-1-propane-sulfonamide | 32 mg | C(C)(C)C=1N=C(SC1)CCC1=CC=2N(C(C(=C(N2)N2CCOCC2)/C=C/C(=O)NS(=O)(=O)CCCNC(=O)OC(C)(C)C)=O)C=C1 | C31H42N6O7S2
